US08110687B2
To a solution of 1-methyl-4-[3-nitro-5-(trifluoromethyl)benzyl]piperazine (0.35 g, 1.15 mmol) in EtOAc (15 mL) was added Pd (10% on C, 0.035 g). The reaction mixture was allowed to stir at rt under an atmosphere of hydrogen over night. The reaction mixture was filtered through Celite, washed with EtOAc, and concentrated to give 3-[(4-methylpiperazin-1-yl)methyl]-5-(trifluoromethyl)aniline (0.285 g, 90%) as a white solid which was used without further purification.

reactant | 1-methyl-4-[3-nitro-5-(trifluoromethyl)benzyl]piperazine | 1.15 mmol, 0.35 g | CN1CCN(CC1)CC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C13H16F3N3O2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd | 0.035 g | [Pd] | Pd
product | 3-[(4-methylpiperazin-1-yl)methyl]-5-(trifluoromethyl)aniline | 0.285 g, 90% | CN1CCN(CC1)CC=1C=C(N)C=C(C1)C(F)(F)F | C13H18F3N3
